US04258047
A mixture of 31.3 g of (5-p-chlorophenyl-1-phenyl-pyrazol-4-yl)-acetic acid, 10.9 g of o-aminophenol and 400 ml of polyphosphoric acid is heated at 175° for 2 hours. After cooling and the customary working up, 5-p-chlorophenyl-1-phenyl-4-(benzoxazol-2-ylmethyl)-pyrazole is obtained; m.p. 137°-139°.

reactant | (5-p-chlorophenyl-1-phenyl-pyrazol-4-yl)-acetic acid | 31.3 g | ClC1=CC=C(C=C1)C1=C(C=NN1C1=CC=CC=C1)CC(=O)O | C17H13ClN2O2
reactant | o-aminophenol | 10.9 g | NC1=C(C=CC=C1)O | C6H7NO
product | 5-p-chlorophenyl-1-phenyl-4-(benzoxazol-2-ylmethyl)-pyrazole | ClC1=CC=C(C=C1)C1=C(C=NN1C1=CC=CC=C1)CC=1OC2=C(N1)C=CC=C2 | C23H16ClN3O
